US07589088B2
To a stirred solution of diethyl malonate (0.92 g, 5.71 mmol) in toluene (10 mL) was added 2,4-dichlorobenzaldehyde (1 g, 5.71 mmol), piperidine (23 μL, 0.23 mmol), acetic acid (13 μL, 0.23 mmol) and molecular sieves (3 Å). The reaction was heated to 70° C. for 2 days and was concentrated under reduced pressure. The residue was filtered through a pad of silica flushing with EtOAc/hexane (1:1) solution. The filtrate was concentrated to give diethyl 2-(2,4-dichlorobenzylidene)malonate (1.83 g, 97%) as a yellow oil.

reactant | diethyl malonate | 5.71 mmol, 0.92 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,4-dichlorobenzaldehyde | 5.71 mmol, 1 g | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | piperidine | 0.23 mmol, 23 μL | N1CCCCC1 | C5H11N
catalyst | acetic acid | 0.23 mmol, 13 μL | C(C)(=O)O | C2H4O2
product | diethyl 2-(2,4-dichlorobenzylidene)malonate | 1.83 g, 97% | ClC1=C(C=C(C(=O)OCC)C(=O)OCC)C=CC(=C1)Cl | C14H14Cl2O4
